US06603008B1
5-(5-(3-Fluoro-4-(1,3-thiazol-4-yl)phenyl)-3-trifluoromethyl-1H-pyrazol-1-yl)-2-pyridinesulfonamide (Step 7)
A suspension of 4,4,4-trifluoro-1-(3-fluoro-4-(1,3-thiazol-4-yl)phenyl)-1,3-butanedione (503 mg, 1.59 mmol) and 5-hydrazino-2-pyridinesulfonamide hydrochloride (392 mg, 1.74 mmol) in ethanol (22 ml) was stirred at reflux for 28 h. After cooling, the solvent was removed and the residue was added water, extracted with ethyl acetate. The extracts was dried (MgSO4) and concentrated. This was purified on silica gel eluting with ethyl acetate/hexane (1:4/1:3/1:2) to afford 172 mg (23.0%) of the titled compound as a yellow solid.

reactant | 4,4,4-trifluoro-1-(3-fluoro-4-(1,3-thiazol-4-yl)phenyl)-1,3-butanedione | 1.59 mmol, 503 mg | FC(C(CC(=O)C1=CC(=C(C=C1)C=1N=CSC1)F)=O)(F)F | C13H7F4NO2S
reactant | 5-hydrazino-2-pyridinesulfonamide hydrochloride | 1.74 mmol, 392 mg | Cl.N(N)C=1C=CC(=NC1)S(=O)(=O)N
solvent | ethanol | 22 ml | C(C)O | C2H6O
product | 5-(5-(3-Fluoro-4-(1,3-thiazol-4-yl)phenyl)-3-trifluoromethyl-1H-pyrazol-1-yl)-2-pyridinesulfonamide | 172 mg, 23.0% | FC=1C=C(C=CC1C=1N=CSC1)C1=CC(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | C18H11F4N5O2S2
